US04288596
To a suspension of sodium hydride (2.5 g) in dimethylformamide (100 ml), a solution of ethyl furo[3,2-b]indole-2-carboxylate (20 g) in dimethylformamide (100 ml) was added dropwise with stirring, then the mixture was stirred for 0.5 hour at room temperature. Methyl iodide (30 g) was added, and the resulting mixture was stirred for 5 hours at room temperature to give ethyl 4-methyl-furo[3,2-b]indole-2-carboxylate (18 g), which was hydrolyzed in a solution of sodium hydroxide (20 g) in water (200 ml) with stirring for an hour to give 4-methyl-furo[3,2-b]indole-2-carboxylic acid (15 g). This carboxylic acid was treated with thionyl chloride (50 ml) in benzene (70 ml) with stirring for an hour at 50° C. to give 4-methyl-furo[3,2-b]indole-2-carbonyl chloride (12 g).

reactant | sodium hydride | 2.5 g | [H-].[Na+]
reactant | ethyl furo[3,2-b]indole-2-carboxylate | 20 g | O1C(=CC=2NC=3C=CC=CC3C21)C(=O)OCC | C13H11NO3
reactant | Methyl iodide | 30 g | CI | CH3I
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 4-methyl-furo[3,2-b]indole-2-carboxylate | 18 g | CN1C2=C(C=3C=CC=CC13)OC(=C2)C(=O)OCC | C14H13NO3
